US08293911B2
Step A: N-(4-Bromo-2-trifluoromethyl-phenyl)-3,3-dimethylbutanamide
3,3-Dimethylbutanoyl chloride (617 mg, 0.64 mL, 4.6 mmol) was added to a solution of 4-Bromo-2-trifluoromethyl-phenylamine (1.0 g, 4.16 mmol) in acetonitrile (10 mL). The reaction mixture was stirred at room temperature overnight. Water was added to the mixture and the precipitate formed collected to give the title compound as a powder (1.1 g, 79% yield).

reactant | 3,3-Dimethylbutanoyl chloride | 4.6 mmol, 0.64 mL, 617 mg | CC(CC(=O)Cl)(C)C | C6H11ClO
reactant | 4-Bromo-2-trifluoromethyl-phenylamine | 4.16 mmol, 1.0 g | BrC1=CC(=C(C=C1)N)C(F)(F)F | C7H5BrF3N
reactant | Water | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-(4-Bromo-2-trifluoromethyl-phenyl)-3,3-dimethylbutanamide | 1.1 g, 79% yield | BrC1=CC(=C(C=C1)NC(CC(C)(C)C)=O)C(F)(F)F | C13H15BrF3NO
